US06172228B2
N-Cyclopropyl-6-[4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide (0.50 g, 1.02 mmol) prepared in the same manner as in Example 1 was dissolved in methanol (20 ml). A 47% hydrobromic acid solution (0.47 g, 2.75 mmol) was added thereto, and the solvent was then removed by evaporation in vacuo. Acetone was added to the residue, and the precipitated crystals were collected by filtration. The crystals were recrystallized from ethanol-acetone, to give N-cyclopropyl-6-[4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide dihydrobromide (0.46 g) as crystalline substances (yield based on N-cyclopropyl-6-[4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide: 69.2%).

reactant | N-Cyclopropyl-6-[4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide | 1.02 mmol, 0.50 g | C1(CC1)NS(=O)(=O)CCCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC(=CC=C1)Cl | C26H36ClN3O2S
reactant | hydrobromic acid | 2.75 mmol, 0.47 g | Br | BrH
solvent | methanol | 20 ml | CO | CH4O
product | N-cyclopropyl-6-[4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide dihydrobromide | 0.46 g | Br.Br.C1(CC1)NS(=O)(=O)CCCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC(=CC=C1)Cl | InChI=1S/C26H36ClN3O2S.2BrH/c27-24-12-8-11-23(21-24)26(22-9-4-3-5-10-22)30-18-16-29(17-19-30)15-6-1-2-7-20-33(31,32)28-25-13-14-25;;/h3-5,8-12,21,25-26,28H,1-2,6-7,13-20H2;2*1H
